* CSD18543Q3A
***********************************************************************
* (C) Copyright 2017 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of
** merchantability or fitness for a particular purpose. The model is
** provided solely on an "as is" basis. The entire risk as to its quality
** and performance is with the customer
******************************************************************************
********************************************************************************
*
* Released by: WEBENCH(R) Design Center, Texas Instruments Inc.
* Part: CSD18543Q3A 
* Date: 09MAY2017
* Model Type: TRANSIENT
* Simulator: PSPICE
* Simulator Version: 16.2.0.p001
* EVM Order Number: 
* EVM Users Guide: 
* Datasheet: SLPS633 -DECEMBER 2016
* Model Version: Final 1.00
*
*****************************************************************************
*
* Updates:
*
* Final 1.00
* Release to Web.
*
*****************************************************************************
* CSD18543Q3A
*************************************************************************
* Model History
*   Initial model for use with spice simulator, based on measured final
*   part data used to support datasheet.				ged 05/04/2017
*      
* SUBCKT Definition:  1=D  2=G  3=S
*************************************************************************
*
* PSpice Model Editor - Version 16.6.0
*$
.subckt	cgs	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	8.293E-10	)
+	(	0.5	8.326E-10	)
+	(	1	8.354E-10	)
+	(	1.5	8.364E-10	)
+	(	2	8.371E-10	)
+	(	2.5	8.3837E-10	)
+	(	3	8.4006E-10	)
+	(	3.5	8.4159E-10	)
+	(	4	8.4276E-10	)
+	(	4.5	8.4383E-10	)
+	(	5	8.4468E-10	)
+	(	5.5	8.4534E-10	)
+	(	6	8.4607E-10	)
+	(	6.5	8.4673E-10	)
+	(	7	8.4739E-10	)
+	(	7.5	8.4802E-10	)
+	(	8	8.4895E-10	)
+	(	8.5	8.5261E-10	)
+	(	9	8.5798E-10	)
+	(	9.5	8.6759E-10	)
+	(	10	8.7388E-10	)
+	(	10.5	8.7397E-10	)
+	(	11	8.7401E-10	)
+	(	11.5	8.7399E-10	)
+	(	12	8.7415E-10	)
+	(	12.5	8.7418E-10	)
+	(	13	8.7428E-10	)
+	(	13.5	8.7428E-10	)
+	(	14	8.7436E-10	)
+	(	14.5	8.7443E-10	)
+	(	15	8.7441E-10	)
+	(	15.5	8.7448E-10	)
+	(	16	8.7455E-10	)
+	(	16.5	8.7462E-10	)
+	(	17	8.747E-10	)
+	(	17.5	8.7467E-10	)
+	(	18	8.7466E-10	)
+	(	18.5	8.7478E-10	)
+	(	19	8.7472E-10	)
+	(	19.5	8.7481E-10	)
+	(	20	8.7482E-10	)
+	(	20.5	8.7481E-10	)
+	(	21	8.7485E-10	)
+	(	21.5	8.7484E-10	)
+	(	22	8.7484E-10	)
+	(	22.5	8.7474E-10	)
+	(	23	8.7477E-10	)
+	(	23.5	8.7475E-10	)
+	(	24	8.7469E-10	)
+	(	24.5	8.7471E-10	)
+	(	25	8.7471E-10	)
+	(	25.5	8.747E-10	)
+	(	26	8.7468E-10	)
+	(	26.5	8.7465E-10	)
+	(	27	8.7461E-10	)
+	(	27.5	8.7457E-10	)
+	(	28	8.7462E-10	)
+	(	28.5	8.7457E-10	)
+	(	29	8.7461E-10	)
+	(	29.5	8.7456E-10	)
+	(	30	8.745E-10	)
+	(	30.5	8.7454E-10	)
+	(	31	8.7447E-10	)
+	(	31.5	8.7451E-10	)
+	(	32	8.7444E-10	)
+	(	32.5	8.7447E-10	)
+	(	33	8.744E-10	)
+	(	33.5	8.7443E-10	)
+	(	34	8.7446E-10	)
+	(	34.5	8.7439E-10	)
+	(	35	8.7441E-10	)
+	(	35.5	8.7434E-10	)
+	(	36	8.7437E-10	)
+	(	36.5	8.7439E-10	)
+	(	37	8.7432E-10	)
+	(	37.5	8.7434E-10	)
+	(	38	8.7437E-10	)
+	(	38.5	8.7429E-10	)
+	(	39	8.7432E-10	)
+	(	39.5	8.7435E-10	)
+	(	40	8.7427E-10	)
+	(	40.5	8.743E-10	)
+	(	41	8.7433E-10	)
+	(	41.5	8.7426E-10	)
+	(	42	8.7429E-10	)
+	(	42.5	8.7432E-10	)
+	(	43	8.7435E-10	)
+	(	43.5	8.7428E-10	)
+	(	44	8.7432E-10	)
+	(	44.5	8.7435E-10	)
+	(	45	8.7439E-10	)
+	(	45.5	8.7433E-10	)
+	(	46	8.7436E-10	)
+	(	46.5	8.744E-10	)
+	(	47	8.7445E-10	)
+	(	47.5	8.7449E-10	)
+	(	48	8.7443E-10	)
+	(	48.5	8.7448E-10	)
+	(	49	8.7453E-10	)
+	(	49.5	8.7458E-10	)
+	(	50	8.7463E-10	)
+	(	50.5	8.7458E-10	)
+	(	51	8.7463E-10	)
+	(	51.5	8.7469E-10	)
+	(	52	8.7475E-10	)
+	(	52.5	8.748E-10	)
+	(	53	8.7486E-10	)
+	(	53.5	8.7482E-10	)
+	(	54	8.7488E-10	)
+	(	54.5	8.7494E-10	)
+	(	55	8.7501E-10	)
+	(	55.5	8.7507E-10	)
+	(	56	8.7513E-10	)
+	(	56.5	8.752E-10	)
+	(	57	8.7526E-10	)
+	(	57.5	8.7533E-10	)
+	(	58	8.753E-10	)
+	(	58.5	8.7536E-10	)
+	(	59	8.7543E-10	)
+	(	59.5	8.755E-10	)
+	(	60	8.7556E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgs
*$
.subckt	cgd	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.440E-10	)
+	(	0.5	1.308E-10	)
+	(	1	1.174E-10	)
+	(	1.5	1.096E-10	)
+	(	2	1.036E-10	)
+	(	2.5	9.783E-11	)
+	(	3	9.224E-11	)
+	(	3.5	8.731E-11	)
+	(	4	8.314E-11	)
+	(	4.5	7.947E-11	)
+	(	5	7.622E-11	)
+	(	5.5	7.326E-11	)
+	(	6	7.053E-11	)
+	(	6.5	6.797E-11	)
+	(	7	6.551E-11	)
+	(	7.5	6.308E-11	)
+	(	8	6.055E-11	)
+	(	8.5	5.529E-11	)
+	(	9	4.632E-11	)
+	(	9.5	3.491E-11	)
+	(	10	2.772E-11	)
+	(	10.5	2.693E-11	)
+	(	11	2.629E-11	)
+	(	11.5	2.571E-11	)
+	(	12	2.515E-11	)
+	(	12.5	2.462E-11	)
+	(	13	2.412E-11	)
+	(	13.5	2.362E-11	)
+	(	14	2.314E-11	)
+	(	14.5	2.267E-11	)
+	(	15	2.219E-11	)
+	(	15.5	2.172E-11	)
+	(	16	2.125E-11	)
+	(	16.5	2.078E-11	)
+	(	17	2.030E-11	)
+	(	17.5	1.983E-11	)
+	(	18	1.934E-11	)
+	(	18.5	1.882E-11	)
+	(	19	1.828E-11	)
+	(	19.5	1.769E-11	)
+	(	20	1.708E-11	)
+	(	20.5	1.649E-11	)
+	(	21	1.595E-11	)
+	(	21.5	1.546E-11	)
+	(	22	1.506E-11	)
+	(	22.5	1.476E-11	)
+	(	23	1.453E-11	)
+	(	23.5	1.435E-11	)
+	(	24	1.421E-11	)
+	(	24.5	1.409E-11	)
+	(	25	1.399E-11	)
+	(	25.5	1.390E-11	)
+	(	26	1.382E-11	)
+	(	26.5	1.375E-11	)
+	(	27	1.369E-11	)
+	(	27.5	1.363E-11	)
+	(	28	1.358E-11	)
+	(	28.5	1.353E-11	)
+	(	29	1.349E-11	)
+	(	29.5	1.344E-11	)
+	(	30	1.340E-11	)
+	(	30.5	1.336E-11	)
+	(	31	1.333E-11	)
+	(	31.5	1.329E-11	)
+	(	32	1.326E-11	)
+	(	32.5	1.323E-11	)
+	(	33	1.320E-11	)
+	(	33.5	1.317E-11	)
+	(	34	1.314E-11	)
+	(	34.5	1.311E-11	)
+	(	35	1.309E-11	)
+	(	35.5	1.306E-11	)
+	(	36	1.303E-11	)
+	(	36.5	1.301E-11	)
+	(	37	1.298E-11	)
+	(	37.5	1.296E-11	)
+	(	38	1.293E-11	)
+	(	38.5	1.291E-11	)
+	(	39	1.288E-11	)
+	(	39.5	1.285E-11	)
+	(	40	1.283E-11	)
+	(	40.5	1.280E-11	)
+	(	41	1.277E-11	)
+	(	41.5	1.274E-11	)
+	(	42	1.271E-11	)
+	(	42.5	1.268E-11	)
+	(	43	1.265E-11	)
+	(	43.5	1.262E-11	)
+	(	44	1.258E-11	)
+	(	44.5	1.255E-11	)
+	(	45	1.251E-11	)
+	(	45.5	1.247E-11	)
+	(	46	1.244E-11	)
+	(	46.5	1.240E-11	)
+	(	47	1.235E-11	)
+	(	47.5	1.231E-11	)
+	(	48	1.227E-11	)
+	(	48.5	1.222E-11	)
+	(	49	1.217E-11	)
+	(	49.5	1.212E-11	)
+	(	50	1.207E-11	)
+	(	50.5	1.202E-11	)
+	(	51	1.197E-11	)
+	(	51.5	1.191E-11	)
+	(	52	1.185E-11	)
+	(	52.5	1.180E-11	)
+	(	53	1.174E-11	)
+	(	53.5	1.168E-11	)
+	(	54	1.162E-11	)
+	(	54.5	1.156E-11	)
+	(	55	1.149E-11	)
+	(	55.5	1.143E-11	)
+	(	56	1.137E-11	)
+	(	56.5	1.130E-11	)
+	(	57	1.124E-11	)
+	(	57.5	1.117E-11	)
+	(	58	1.110E-11	)
+	(	58.5	1.104E-11	)
+	(	59	1.097E-11	)
+	(	59.5	1.090E-11	)
+	(	60	1.084E-11	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cgd
*$
.subckt	cds	1	2	3	4
e1	5	0	value	{abs(v(3,4))}
r1	5	0	1e6
e2	6	0	table	{v(5,0)}=
+	(	0	1.566E-09	)
+	(	0.5	1.453E-09	)
+	(	1	1.330E-09	)
+	(	1.5	1.243E-09	)
+	(	2	1.175E-09	)
+	(	2.5	1.116E-09	)
+	(	3	1.062E-09	)
+	(	3.5	1.016E-09	)
+	(	4	9.749E-10	)
+	(	4.5	9.395E-10	)
+	(	5	9.072E-10	)
+	(	5.5	8.782E-10	)
+	(	6	8.517E-10	)
+	(	6.5	8.267E-10	)
+	(	7	8.026E-10	)
+	(	7.5	7.766E-10	)
+	(	8	7.456E-10	)
+	(	8.5	6.868E-10	)
+	(	9	5.910E-10	)
+	(	9.5	4.739E-10	)
+	(	10	3.953E-10	)
+	(	10.5	3.772E-10	)
+	(	11	3.598E-10	)
+	(	11.5	3.442E-10	)
+	(	12	3.301E-10	)
+	(	12.5	3.170E-10	)
+	(	13	3.048E-10	)
+	(	13.5	2.933E-10	)
+	(	14	2.823E-10	)
+	(	14.5	2.718E-10	)
+	(	15	2.619E-10	)
+	(	15.5	2.525E-10	)
+	(	16	2.435E-10	)
+	(	16.5	2.349E-10	)
+	(	17	2.268E-10	)
+	(	17.5	2.193E-10	)
+	(	18	2.122E-10	)
+	(	18.5	2.057E-10	)
+	(	19	1.998E-10	)
+	(	19.5	1.945E-10	)
+	(	20	1.897E-10	)
+	(	20.5	1.854E-10	)
+	(	21	1.817E-10	)
+	(	21.5	1.783E-10	)
+	(	22	1.753E-10	)
+	(	22.5	1.726E-10	)
+	(	23	1.704E-10	)
+	(	23.5	1.684E-10	)
+	(	24	1.665E-10	)
+	(	24.5	1.649E-10	)
+	(	25	1.634E-10	)
+	(	25.5	1.621E-10	)
+	(	26	1.610E-10	)
+	(	26.5	1.601E-10	)
+	(	27	1.591E-10	)
+	(	27.5	1.584E-10	)
+	(	28	1.576E-10	)
+	(	28.5	1.571E-10	)
+	(	29	1.565E-10	)
+	(	29.5	1.561E-10	)
+	(	30	1.557E-10	)
+	(	30.5	1.553E-10	)
+	(	31	1.552E-10	)
+	(	31.5	1.549E-10	)
+	(	32	1.548E-10	)
+	(	32.5	1.548E-10	)
+	(	33	1.547E-10	)
+	(	33.5	1.547E-10	)
+	(	34	1.548E-10	)
+	(	34.5	1.549E-10	)
+	(	35	1.551E-10	)
+	(	35.5	1.553E-10	)
+	(	36	1.556E-10	)
+	(	36.5	1.559E-10	)
+	(	37	1.562E-10	)
+	(	37.5	1.565E-10	)
+	(	38	1.570E-10	)
+	(	38.5	1.575E-10	)
+	(	39	1.579E-10	)
+	(	39.5	1.585E-10	)
+	(	40	1.591E-10	)
+	(	40.5	1.597E-10	)
+	(	41	1.603E-10	)
+	(	41.5	1.610E-10	)
+	(	42	1.616E-10	)
+	(	42.5	1.623E-10	)
+	(	43	1.631E-10	)
+	(	43.5	1.639E-10	)
+	(	44	1.646E-10	)
+	(	44.5	1.655E-10	)
+	(	45	1.663E-10	)
+	(	45.5	1.671E-10	)
+	(	46	1.680E-10	)
+	(	46.5	1.688E-10	)
+	(	47	1.697E-10	)
+	(	47.5	1.705E-10	)
+	(	48	1.713E-10	)
+	(	48.5	1.722E-10	)
+	(	49	1.730E-10	)
+	(	49.5	1.739E-10	)
+	(	50	1.747E-10	)
+	(	50.5	1.756E-10	)
+	(	51	1.763E-10	)
+	(	51.5	1.772E-10	)
+	(	52	1.780E-10	)
+	(	52.5	1.787E-10	)
+	(	53	1.795E-10	)
+	(	53.5	1.801E-10	)
+	(	54	1.809E-10	)
+	(	54.5	1.815E-10	)
+	(	55	1.822E-10	)
+	(	55.5	1.828E-10	)
+	(	56	1.833E-10	)
+	(	56.5	1.839E-10	)
+	(	57	1.845E-10	)
+	(	57.5	1.849E-10	)
+	(	58	1.854E-10	)
+	(	58.5	1.859E-10	)
+	(	59	1.863E-10	)
+	(	59.5	1.867E-10	)
+	(	60	1.871E-10	)
r2	6	0	1e6
c1	3	7	1e-15
v1	7	0	DC	0.0V
e3	8	0	value	{1*I(v1)}
r3	8	0	1e6
g1	1	2	value	{-1e15*v(6,0)*v(8,0)}
.ends cds
*$
.SUBCKT csd18543q3a  1 2 3
* PARAMETER (local) DEFINITIONS SECTION
.PARAM  ptrc1	5.0e-3  
.PARAM  ptrc2	1.2e-5
.PARAM  pAA		2.834528883
.PARAM  pwidth	{pAA/1.9}
.PARAM  perim	{2.1*pwidth}
****** MODEL SUBCIRCUIT BEGINS HERE    ***************************
M1   10 11 12 12  NMOS	W={pwidth} L=0.42u  PS={perim} PD={perim}
xcgd	5  10	  1	3	cgd
cgs	5	  8		4.495e-10
xcds	8  10	  1	3	cds
DBD	3   1		DBD {pwidth/5.788667}
LGG   2   5	 	0.8e-9
RGG   5  11	 	2.50
RGL   2   5       1.5
RSB  12   9	 	RTEMP 0.05e-3
RSS   9   8		RTEMP 0.3e-3
RSP   8   6		RTEMP 1.01e-3
LSS   6   3		0.15e-9
RSL   6   3		0.5
RDD   7  10		RTEMP 5.2e-3
RDP   4   7		RTEMP 0.5e-3
LDD   1   4		0.05e-9
******************************************************************* 
.MODEL  NMOS   NMOS (	LEVEL  = 7			VERSION = 3.2
+ CAPMOD = 2		TNOM	 = 25
+ TOX    = 4.00e-8	NCH    = 1.830e17		NSUB   = 1.0e16
+ NLX    = 1.74E-7	VBM    = -10		DVT0   = 2.2
+ DVT1   = 0.53		DVT2   = -0.032		U0     = 600
+ UA     = 2.6e-9		UB     = 5.0e-19		AGS	 = 0.0
+ A0     = 1.0		A1     = 0.0		A2     = 1.0
+ LINT   = 0.025e-6	VOFF   = -0.22		NFACTOR= 1.50
+ ETA0   = 0.005		ETAB   = -0.07		DSUB   = 0.6
+ PCLM   = 1.25		PDIBLC1= 0.02		PDIBLC2= 0.004
+ DROUT  = 0.6		PSCBE1 = 4.0e8		PSCBE2 = 1e-6
+ PVAG   = 0.1		DELTA  = 0.02		JS     = 0
+ KT1    = -0.90		KT2    = 0.022		UTE    = -1.5
+ UA1    = 0.9e-09	UB1    =-2.0e-19		KT1L   = 1.0e-15
+ XJ     = 3e-7		JS	  = 0			VSAT	 = 8.5e4
+ VOFFCV = -0.5
+ CGSO   = 1e-12		CGDO   = 1e-18		CGBO   = 1e-18
+ CJ     = 1e-18		CJSW   = 1e-18		CF     = 0     )
******************************************************************* 
.MODEL DBD D (CJO=7.50e-15 VJ=0.5 M=0.625 TNOM=25
+ FC=0.5 TT=2e-09 XTI=4.5 BV=62  TBV1=5.2e-4 TBV2=-5e-7 ISR=3e-09
+ IS=2.76e-12 N=1.02 RS=0.60e-3 TRS1=3.0e-3 NR=2.5)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
*******************************************************************
.ENDS csd18543q3a
*
*$
