***********************************************************************
**  v1.7.5 PSpice Models Library - TI NexFET Power N/P Channel FET's
*  (C) Copyright 2012 Texas Instruments Incorporated. All rights reserved.
***********************************************************************
***********************************************************************
* Notice:
* The data and models provided herein are intended to be used by 
* customers as an aid in designing electrical circuits using 
* semiconductor devices manufactured &/or sold by Texas Instruments.
* The models and associated information contained herein are not to
* be construed as a guarantee of electrical performance and/or device 
* specification.  Therefore, Texas Instruments does not assume any 
* liability arising out of the use of said data or models, nor from
* the devices or products manufactured therefrom.  Texas Instruments
* does not convey any license under its patent rights nor the rights
* of others.  Texas Instruments reserves the right to change models 
* without prior notice.  
*
* TI is a registered trademark of Texas Instruments Inc.
*************************************************************************
********************************************************************************
*
* Released by: Webench Design Center, Texas Instruments Inc.
* Part: CSD16342Q5A
* Date: 03/08/2012
* Model Type: TRANSIENT
* Simulator: PSPICE
* Datasheet: SLPS369A - FEBRUARY 2012 - REVISED MARCH 2012
*
*****************************************************************************
*$
**********************************************************************
**********************************************************************
*                                                                    *
* CSD16342Q5A  -  PSpice Model for use with OrCAD                    *
*                                                                    *
**********************************************************************
**********************************************************************
* SUBCKT Definition:  1=D  2=G  3=S
**********************************************************************
.SUBCKT CSD16342Q5A  1 2 3
.PARAM  ptrc1  2.95e-3
.PARAM  ptrc2  1.20e-5
.PARAM  pwidth 1.3392864
.PARAM  perim  2.64
M1   10 11 12 12  NMOS	W={pwidth} L=0.4u  PS={perim} PD={perim}
DBD   8  7	 DBD
CGD0  5  7	 1E-12
CGS0  5  8	 4e-12
CDS0 10 12   6e-12
M2   12 11 12 10  PMOSd W={pwidth} L=0.048u  PS={perim} PD={perim}
DDG  14  5	 DD
DGD  14 10	 DD
* Note:  gate oxide capacitance included in NMOS below
CGS   5 13	 185E-12
RGS  13  8	 50
LGG   2  5	 1.31e-9
RGG   5 11	 1.31
RSB  12  9	 RTEMP 0.53E-3
RSS   9  8 	 0.05e-3
RSP   8  6 	 0.50e-3
LSS   6  3	 0.20E-9
RDP   4  7	 0.19e-3
RDD   7 10 	 RTEMP 2.1e-3
LDD   1  4	 0.05E-9
******************************************************************* 
.MODEL  NMOS   NMOS (  LEVEL = 7       Version = 3.2  
+ TNOM   = 27            LINT   = 0.055e-6      CAPMOD = 2
+ TOX    = 1.80e-8       NCH    = 1.425e17      NSUB   = 1.0e16
+ AGS    = 0.6           PVAG   = 0.48
+ A0     = 1.0           A1     = 0.0           A2     = 1.0
+ UA     = 3.9e-9        UB     = 5.0e-19       VBM    = -5
+ UA1    = 3.25e-9       UB1    = -6.5e-18      UTE    = -1.50
+ KT1    = -0.55         KT2    = 0.022         KT1L   = 1.0e-12
+ DVT0   = 2.3           DVT1   = 0.55	      DVT2   = -0.033
+ ETA0   = 0.045         ETAB   = -0.07         XJ     = 4e-7
+ PDIBLC1= 0.08          PDIBLC2= 0.006         NLX    = 1.7e-7
+ PSCBE1 = 8.0e8         PSCBE2 = 1e-7          PCLM   = 0.75
+ VOFF   = -0.121        NFACTOR= 1.8           JS     = 0
+ DROUT  = 1.0           DSUB   = 1.3           DELTA  = 0.02
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 294e-12       CGDO   = 1.2e-12       CGBO   = 0  )
******************************************************************* 
.MODEL  PMOSd   PMOS (  LEVEL  = 7      Version = 3.2
+ TNOM   = 27            CAPMOD = 2
+ JS     = 0             VBM    = -10
+ TOX    = 2.8e-8        NCH    = 1.6e17        NSUB   = 5e16
+ CJ     = 1e-18         CJSW   = 1e-18         CF     = 0
+ CGSO   = 0             CGDO   = 0             CGBO   = 0 )
******************************************************************* 
.MODEL DBD D (CJO=2440e-12 VJ=1.0 M=0.49 FC=0.5 TT=5e-09 TNOM=27
+ IS=1.25e-12 N=1.02 RS=4.0e-4 TRS1=4.5e-3 XTI=3.35 BV=27)
.MODEL DD  D (CJO=125e-12 VJ=0.87 M=0.56 IS=1e-12 TNOM=27)
*******************************************************************
.MODEL RTEMP RES (TC1={ptrc1} TC2={ptrc2})
******************************************************************* 
.ENDS CSD16342Q5A  
*$